US04997954
Preparation of 4-(2'-bromoethvl)-3-chloro-1,3-dihydro-2H-indol-2-one
To a precooled solution of ferric chloride (28.5 kg) in dichloromethane (340 1) at 0° C. was added acetyl chloride (9.2 kg) at such a rate that the reaction temperature did not exceed 5° C. The reaction mixture was stirred at between 0° and 5° C. for 15 minutes. To the mixture was added a pre-dryed solution of 2-(2'-bromoethyl)-β-nitrostyrene [12.88 kg (16.22 kg wet:water content 20.6%)]in dichloromethane (55 litres) at such a rate that the reaction temperature did not exceed 5° C. The reaction mixture was stirred for 5 hours at a temperature between 5 and 10° C. Analysis by TLC confirmed that the reaction had gone to completion. Water (240 1) was then added to the reaction mixture at such a rate so that the temperature did not exceed 20° C. The mixture was then stirred for 30 minutes. The dichloromethane layer was isolated and washed a further three times with water (three times 120 1). The dichloromethane layer was then distilled to a volume of about 60 1. After cooling to 20° C. petroleum ether (60/80 grade. 40 1) was added and the resulting precipitate was stirred at 10° C. for 30 minutes. HPLC analysis of the crude reaction mixture indicated a purity of 93.22% of the required product. 4-(2'-bromo-ethyl)-3-chloro-1,3-dihydro-2H-indol-2-on by filtration, the filtrate washed with petroleum ether (60 1) and dried at 80° C. overnight to give 10.8 kg (78%) of of the title compound.

reactant | acetyl chloride | 9.2 kg | C(C)(=O)Cl | C2H3ClO
reactant | 2-(2'-bromoethyl)-β-nitrostyrene | BrCCC1=C(C=C[N+](=O)[O-])C=CC=C1 | C10H10BrNO2
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 55 litres | ClCCl | CH2Cl2
product | 4-(2'-bromoethvl)-3-chloro-1,3-dihydro-2H-indol-2-one | BrCCC1=C2C(C(NC2=CC=C1)=O)Cl | C10H9BrClNO
